US06391874B1
(1-(3-Fluorobenzyl)-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 1-(3-fluorobenzyl)-1H-indazol-5-ylamine and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.80(1H,s), 9.45(1H,s), 8.90(1H,s), 8.60(1H,d), 8.25(1H,s), 8.13(2H,m), 7.87(1H,d), 7.79(1H,d), 7.39(1H,dd), 7.10(3H,m), 5.75(2H,s) 2.65 (3H,s); m/z (M+1+) 452.

reactant | 1-(3-fluorobenzyl)-1H-indazol-5-ylamine | FC=1C=C(CN2N=CC3=CC(=CC=C23)N)C=CC1 | C14H12FN3
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (1-(3-Fluorobenzyl)-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C)C=CC1 | InChI=1S/C25H18FN7O.ClH/c1-15-31-32-25(34-15)17-5-7-22-21(11-17)24(28-14-27-22)30-20-6-8-23-18(10-20)12-29-33(23)13-16-3-2-4-19(26)9-16;/h2-12,14H,13H2,1H3,(H,27,28,30);1H
